US06605600B1
8-(4-Hydroxy-4-methyl-bicyclo[3.2.1]oct-6-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
8-(4-Oxo-bicyclo[3.2.1]oct-6-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (51 mg) was taken in THF (3 ml) at 0° C. CH3MgBr (1 ml, 3.0 M) was added and stirred for 2 hrs. The reaction was quenched with sat. NH4Cl, and extracted with ethyl acetate. The organic layer was washed with water, brine, and dried over Na2SO4. Concentration followed by purification on silica column gave the desired product. Mass (ES+ 375).

reactant | 8-(4-Oxo-bicyclo[3.2.1]oct-6-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 51 mg | O=C1CCC2CC(C1C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C19H26N4O3
reactant | CH3MgBr | 3.0 M, 1 ml | C[Mg+].[Br-]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 8-(4-Hydroxy-4-methyl-bicyclo[3.2.1]oct-6-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | OC1(CCC2CC(C1C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)C | C20H30N4O3
